US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-bromobenzenesulfonylamino)-4-methylthiobutanoic acid (2.99 g) and ethyl 3-aminobenzoate (1.34 g) were condensed in dichloromethane (100 ml) in the presence of N,N'-dicyclohexylcarbodiimide (2.01 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-4-methylthiobutanamide (2.018 g).

reactant | (S)-2-(4-bromobenzenesulfonylamino)-4-methylthiobutanoic acid | 2.99 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)O)CCC | C11H14BrNO3S2
reactant | ethyl 3-aminobenzoate | 1.34 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 2.01 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-4-methylthiobutanamide | 2.018 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=S)NC1=CC(=CC=C1)C(=O)OCC)CCC | C20H23BrN2O4S2
